US07723330B2
Step A: Preparation of 1-((4-bromofuran-2-yl)methyl)-4-methylpiperazine:
To a stirred mixture of 4-bromofuran-2-carbaldehyde (2.10 g, 12.0 mmol) and THF (10 mL) that was cooled in an ice bath was added 1-methylpiperazine (1.60 ml, 14.4 mmol) dropwise, followed by sodium triacetoxyborohydride (3.81 g, 18.0 mmol) in 3 portions as solid. Acetic acid (0.343 ml, 6.00 mmol) was added, and the reaction was stirred for 18 hours at ambient temperature. The dark mixture was diluted with water (10 mL) and basified to pH>12 by addition of 5N NaOH. The mixture was extracted with diethyl ether (3×50 mL). The combined organic phases were dried (Na2SO4), filtered, and concentrated in vacuo. The resulting black oil (2.10 g, 66%) was carried forward without purification.

reactant | 4-bromofuran-2-carbaldehyde | 12.0 mmol, 2.10 g | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | 1-methylpiperazine | 14.4 mmol, 1.60 ml | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 18.0 mmol, 3.81 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetic acid | 6.00 mmol, 0.343 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | 5N | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-((4-bromofuran-2-yl)methyl)-4-methylpiperazine | BrC=1C=C(OC1)CN1CCN(CC1)C | C10H15BrN2O
